US04438143
1-(2-Cyano-4-n-hexanoylamino-phenoxy)-3-isopropylamino-2-propanol
Ten grams (0.035 mol) of 1-(2-cyano-4-hexanoylamino-phenoxy)-2,3-epoxypropane were dissolved in 100 ml of ethanol and, after the addition of 8.3 gm (0.14 mol) of isopropylamine, the mixture was refluxed for one hour. The solvent was evaporated in vacuo, and the remaining residue solidified. It was recrystallized twice from acetonitrile. The white crystalline base was recovered by suction filtration and dried.

reactant | 1-(2-cyano-4-hexanoylamino-phenoxy)-2,3-epoxypropane | 0.035 mol, Ten grams | C(#N)C1=C(OCC2CO2)C=CC(=C1)NC(CCCCC)=O | C16H20N2O3
reactant | isopropylamine | 0.14 mol, 8.3 gm | C(C)(C)N | C3H9N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(2-Cyano-4-n-hexanoylamino-phenoxy)-3-isopropylamino-2-propanol | C(#N)C1=C(OCC(CNC(C)C)O)C=CC(=C1)NC(CCCCC)=O | C19H29N3O3
